US08067445B2
Synthesis of [2′-(1-Ethyl-3-phenyl-ureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid (Compound 1-121)
To a solution of {2′-[3-(2-bromo-phenyl)-1-ethyl-ureidomethyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid (0.072 g, 0.13 mmol) in EtOH was added 10% palladium on carbon (0.020 g), and the reaction was stirred under H2 using a Parr apparatus overnight. The mixture was filtered through a pad of Celite and concentrated, and the residue was acidified with 1N aqueous HCl and extracted with CH2Cl2. The combined organic layers were dried and concentrated, and the crude material was purified by silica gel chromatography (20-60% EtOAc in hexanes) to give the title compound. M+H is 487.

reactant | {2′-[3-(2-bromo-phenyl)-1-ethyl-ureidomethyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid | 0.13 mmol, 0.072 g | BrC1=C(C=CC=C1)NC(N(CC)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)CC(=O)O)=O | C26H24BrF3N2O4
solvent | EtOH | CCO | C2H6O
catalyst | palladium on carbon | 0.020 g | [Pd] | Pd
product | [2′-(1-Ethyl-3-phenyl-ureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid | C(C)N(C(=O)NC1=CC=CC=C1)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)CC(=O)O | C26H25F3N2O4
